US05326502
EXAMPLE 1--Preparation of 2-(2-pyridyl)benzimidazole
A 2 liter 3-neck round-bottom flask fitted with a reflux condenser, N2 (g) inlet, mechanical stirrer, and heating mantle was charged with 88.7 g of 1,2-phenylenediamine, 100.0 g of picolinic acid, and 500 g of polyphosphoric acid. The resulting slurry was slowly heated (over a period of approximately three hours) to 210° C. under a positive nitrogen atmosphere, with mechanical stirring. The reaction mixture was heated for an additional six hours while maintaining the temperature between 200°-220° C. The reaction mixture was cooled to below 100° C. and cautiously poured into 2 liters of hot distilled water. The resulting slurry was stirred for approximately one hour, cooled and the pH adjusted to approximately 6-7 using concentrated aqueous NaOH. The slurry was stirred for an additional hour, cooled, and filtered. The precipitate was thoroughly washed with distilled water and dried.

reactant | 1,2-phenylenediamine | 88.7 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | picolinic acid | 100.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
product | 2-(2-pyridyl)benzimidazole | N1=C(C=CC=C1)C=1NC2=C(N1)C=CC=C2 | C12H9N3
